US05801201
8-allyloxy-1,4-dioxa-spiro[4.5]decane (11)
23.7 g (150 mmole) 1,4-dioxa-spiro[4.5]decan-8-ol were dissolved in 120 ml absolute dimethylformamide under a nitrogen atmosphere. After adding 7.9 g of 50% sodium hydride in mineral oil (165 mmole), the mixture was stirred for 1 hour at 20° C. After adding 14.3 ml allyl bromide (165 mmole), the mixture was heated to 70° C. and stirred for 1 hour. Thereafter it was treated with 160 ml water and was extracted at 10° C.-15° C., three times with ether, once with water and once with saturated sodium chloride solution. After removing the solvent by distillation, 24 g of crude product (81% theoretical) were obtained.

reactant | 1,4-dioxa-spiro[4.5]decan-8-ol | 150 mmole, 23.7 g | O1CCOC12CCC(CC2)O | C8H14O3
reactant | sodium hydride | 7.9 g | [H-].[Na+]
reactant | allyl bromide | 165 mmole, 14.3 ml | C(C=C)Br | C3H5Br
reactant | water | 160 ml | O | H2O
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | 8-allyloxy-1,4-dioxa-spiro[4.5]decane | 24 g, 81% | C(C=C)OC1CCC2(OCCO2)CC1 | C11H18O3
